US04845219
3-[(2-Methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)propyl)sulfonyl]propyltrimethylammonium mesylate
In 20 ml of toluene containing 4 g of trimethylamine is dissolved 3.1 g of 3-mesyloxypropyl 2-methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)propyl sulfone, and the mixture is stirred at room temperature for 3 days. The reaction mixture is concentrated under reduced pressures to leave a residue which in turn is purified by silica gel column chromatography to yield 2.49 g of the captioned compound.

reactant | 3-mesyloxypropyl 2-methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)propyl sulfone | 3.1 g | COC(CS(=O)(=O)CCCOS(=O)(=O)C)COCCC(CCCC(CCCC(CCCC(C)C)C)C)C | C28H58O7S2
reactant | trimethylamine | CN(C)C | C3H9N
solvent | toluene | 20 ml, 4 g | C1(=CC=CC=C1)C | C7H8
product | 3-[(2-Methoxy-3-(3,7,11,15-tetramethylhexadecyloxy)propyl)sulfonyl]propyltrimethylammonium mesylate | 2.49 g | S(C)(=O)(=O)[O-].COC(CS(=O)(=O)CCC[N+](C)(C)C)COCCC(CCCC(CCCC(CCCC(C)C)C)C)C | InChI=1S/C30H64NO4S.CH4O3S/c1-26(2)14-10-15-27(3)16-11-17-28(4)18-12-19-29(5)20-22-35-24-30(34-9)25-36(32,33)23-13-21-31(6,7)8;1-5(2,3)4/h26-30H,10-25H2,1-9H3;1H3,(H,2,3,4)/q+1;/p-1
